US04053588
4 ml of n-hexyl amine were added at 0° C. to a solution of 3.1 g of L-pyroglutamic acid 2,4,5-trichlorophenyl ester in 10 ml of dimethyl formamide and the solution was left at room temperature for 20 hours. The solvent was removed by distillation in vacuo at room temperature. The residue was taken up in 90% aqueous methanol, and the solution was filtered successively through 200 ml each of Levatit S 100(H+ -form)and Serdolit Blau (OH- -form). The ion exchanger columns were washed with 200 ml of 90% methanol and the combined eluate and washing solution were concentrated in vacuo. The L-pyroglutamic acid n-hexyl amide obtained as a colorless solid was recrystallized from ethyl acetate.

reactant | n-hexyl amine | 4 ml | C(CCCCC)N | C6H15N
reactant | L-pyroglutamic acid 2,4,5-trichlorophenyl ester | 3.1 g | ClC1=C(C=C(C(=C1)Cl)Cl)OC([C@H]1NC(CC1)=O)=O | C11H8Cl3NO3
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | L-pyroglutamic acid n-hexyl amide | C(CCCCC)NC([C@H]1NC(CC1)=O)=O | C11H20N2O2
